US08058299B2
Preparation of 1-(1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carbonyl)-piperidine-3-carboxylic acid ethyl ester
This compound was prepared from 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid and piperidine-3-carboxylic acid ethyl ester using the same method describer in earlier example. LC-MS showed a single peak with a retention time of 3.62 min. LRMS calcd for C31H33F3N4O5 (M+H) 599.24, obsd 599.2

reactant | 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)N1CCC(CC1)C(=O)O)C(F)(F)F | C23H20F3N3O4
reactant | piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CNCCC1 | C8H15NO2
product | 1-(1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carbonyl)-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CN(CCC1)C(=O)C1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C31H33F3N4O5
